US08440666B2
4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-chloro-2-fluoropyridine
A tetrahydrofuran solution (10 mL) of 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-fluoropyridine (469.1 mg, 1.94 mmol) was mixed with lithium diisopropylamide (1.08 M in tetrahydrofuran, 2.16 mL, 2.33 mmol) under cooling with ice. The reaction mixture was stirred at 0° C. for an hour, then added to hexachloroethane (840.0 mg, 3.50 mmol) and warmed slowly to room temperature for 12 hours with stirring. After completion of the reaction, the reaction solution was mixed with ethyl acetate, and the organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1 to 5/1) to give the desired product (157.7 mg, 30% yield).

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-fluoropyridine | 1.94 mmol, 469.1 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC=C1)F | C12H20FNOSi
reactant | lithium diisopropylamide | 2.33 mmol, 1.08 M, 2.16 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexachloroethane | 3.50 mmol, 840.0 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-chloro-2-fluoropyridine | 157.7 mg, 30% yield | [Si](C)(C)(C(C)(C)C)OCC1=C(C(=NC=C1)F)Cl | C12H19ClFNOSi
